US07005432B2
To a solution of 1-(3-bromo-5-fluoro-phenyl)-ethanol (2.9 g, 13.2 mmol) in methylene chloride (150 ml) was added at room temperature pyridinium dichromate (3.98 g). The reaction mixture was stirred for 4 hours at room temperature and the solvent was removed in the presence of silica gel. The crude product was purified by chromatography over silica gel to provide 1-(3-bromo-5-fluoro-phenyl)-ethanone (1.39 g, 45%) as a light yellow solid, MS: m/e=216.1 (M+).

reactant | 1-(3-bromo-5-fluoro-phenyl)-ethanol | 13.2 mmol, 2.9 g | BrC=1C=C(C=C(C1)F)C(C)O | C8H8BrFO
reactant | pyridinium dichromate | 3.98 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-bromo-5-fluoro-phenyl)-ethanone | 1.39 g, 45% | BrC=1C=C(C=C(C1)F)C(C)=O | C8H6BrFO
